US05428168
Sodium borohydride (1.3 g, 35 mmol) was added portionwise to a stirred solution of methyl 3-(4-chlorobenzoyl)propionate (5.3 g, 23 mmol) in methanol (50 ml) at 0° C. The mixture was allowed to warm up to room temperature, stirred for 4 h and partitioned between 1M aqueous hydrochloric acid (100 ml) and DCM (150 ml). The organic layer was separated and the aqueous layer extracted with DCM 2×100 ml). The combined extracts were dried over anhydrous sodium sulphate, filtered and concentrated to give crude methyl 4-(4-chlorophenyl)-4-hydroxybutanoate which was dissolved in methanol (40 ml). Sodium hydride (80% dispersion in oil: 100 mg, 3 mmol) was added, the mixture stirred for 1 h, and partitioned between aqueous 1M hydrochloric acid (50 ml) and ethyl acetate (100 ml). The organic layer was separated and the aqueous layer extracted with ethyl acetate (100 ml). The combined organics were dried over anhydrous potassium carbonate, filtered and concentrated to give 5-(4-chlorophenyl)-gamma-butyrolactone (3.85 g, 83%) as a colourless oil.

reactant | Sodium borohydride | 35 mmol, 1.3 g | [BH4-].[Na+]
reactant | methyl 3-(4-chlorobenzoyl)propionate | 23 mmol, 5.3 g | ClC1=CC=C(C(=O)CCC(=O)OC)C=C1 | C11H11ClO3
solvent | methanol | 50 ml | CO | CH4O
product | methyl 4-(4-chlorophenyl)-4-hydroxybutanoate | ClC1=CC=C(C=C1)C(CCC(=O)OC)O | C11H13ClO3
